US07371503B2
20 g of 2-naphthalene thiol was dissolved in 100 ml of acetone, and 13.39 g of 4-chloro-1-butanol and 25.04 g of triethylamine were added dropwise. The mixture was reacted for 12 hours at room temperature while stirring and poured into 100 ml of water. The reaction mixture was extracted three times with 50 ml of ethyl acetate. The resulting organic layer was washed three times with 50 ml of 10 wt % sodium carbonate aqueous solution and three times with 50 ml of 5 wt % oxalic-acid aqueous solution. The separated water layer was repeatedly washed with distilled water until pH 7. The organic layer was dried using 3 g of magnesium sulfate. After removing magnesium sulfate by filtration, the solvent was evaporated using a rotary evaporator to obtain 20.2 g of 4-(naphthalen-2-ylsulfanyl)butan-1-ol as a highly viscous oily liquid.

reactant | 2-naphthalene thiol | 20 g | C1=C(C=CC2=CC=CC=C12)S | C10H8S
reactant | 4-chloro-1-butanol | 13.39 g | ClCCCCO | C4H9ClO
reactant | triethylamine | 25.04 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(naphthalen-2-ylsulfanyl)butan-1-ol | 20.2 g | C1=C(C=CC2=CC=CC=C12)SCCCCO | C14H16OS
